US04760068
Phorphorus pentachloride (3.0 g, 14.2 mmoles) was suspended in dichloromethane (4 ml). To the suspension was added dropwise a solution of 1-phenyl-1-(3-pyridyl)-2-propen-1-ol (2.0 g, 9.5 mmoles) in dichloromethane (20 ml) at 0° C., then the mixture was stirred for one hour at room temperature, followed by washing with water, saturated aqueous solution of sodium hydrogen carbonate in the order. The organic layer is dried (magnesium sulfate), and concentrated to about 20 ml at a temperature not exceeding 30° C. The solution was further dried with molecular sieves 4A. This solution was named as (a) solution. Separately, sodium hydride (400 mg, 10 mmoles) is suspended in dimethylformamide (5 ml). To the suspension was added dropwise methyl metahydroxybenzoate (1.37 g, 9.0 mmoles) dissolved in dimethylformamide (5 ml). The mixture was stirred for 30 minutes at 0° C., to which was added dropwise the (a) solution, followed by stirring at room temperature for 1.5 hours. The reaction mixture was poured in ice-water, which is subjected to extraction with ethyl acetate, washed with water and dried (magnesium sulfate), followed by removing the solvent by evaporation under reduced pressure. The residue was subjected to silica-gel column chromatography, using ether-ethyl acetate (7:3) as eluant to yield methyl 3-[3-(3-pyridyl)-3-phenyl-2-propenyloxy]benzoate (If-56) (3.0 g, 92%).

reactant | 1-phenyl-1-(3-pyridyl)-2-propen-1-ol | 9.5 mmoles, 2.0 g | C1(=CC=CC=C1)C(C=C)(O)C=1C=NC=CC1 | C14H13NO
reactant | sodium hydride | 10 mmoles, 400 mg | [H-].[Na+]
reactant | methyl metahydroxybenzoate | 9.0 mmoles, 1.37 g | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | methyl 3-[3-(3-pyridyl)-3-phenyl-2-propenyloxy]benzoate | 3.0 g, 92% | N1=CC(=CC=C1)C(=CCOC=1C=C(C(=O)OC)C=CC1)C1=CC=CC=C1 | C22H19NO3
